US07772271B2
2-(4-aminophenyl)-1-cyclopropyl-6-hydroxyindole-3-carbonitrile (0.29 g, 1.0 mmol), prepared in example 1DD, step A, is mixed with K2CO3 (0.35 g, 2.5 mmol), toluene-4-sulfonic acid tetrahydrofuran-2-yl ester (0.36 g, 1.5 mmol) and acetonitrile (5 mL) and the mixture is stirred at 80° C. overnight. The solvent is removed in vacuum and the residue is treated with DCM and chromatographed (silica gel, DCM/EtOAc, 9/1) to provide 2-(4-aminophenyl)-1-cyclopropyl-6-(tetrahydrofuran-2-yloxy)indole-3-carbonitrile (0.27 g, 75%).

reactant | 2-(4-aminophenyl)-1-cyclopropyl-6-hydroxyindole-3-carbonitrile | 1.0 mmol, 0.29 g | NC1=CC=C(C=C1)C=1N(C2=CC(=CC=C2C1C#N)O)C1CC1 | C18H15N3O
reactant | K2CO3 | 2.5 mmol, 0.35 g | C(=O)([O-])[O-].[K+].[K+]
reactant | toluene-4-sulfonic acid tetrahydrofuran-2-yl ester | 1.5 mmol, 0.36 g | O1C(CCC1)OS(=O)(=O)C1=CC=C(C=C1)C | C11H14O4S
solvent | acetonitrile | 5 mL | C(C)#N | C2H3N
product | 2-(4-aminophenyl)-1-cyclopropyl-6-(tetrahydrofuran-2-yloxy)indole-3-carbonitrile | 0.27 g, 75% | NC1=CC=C(C=C1)C=1N(C2=CC(=CC=C2C1C#N)OC1OCCC1)C1CC1 | C22H21N3O2
